US04824855
A mixture of 10.0 g (35 mmol) of 2-[N-(4-chlorobenzyl)-N-methylamino]-ethyl acetoacetate, 10.2 g (35 mmol) of cyclopropylmethyl 2-(3-nitrobenzylidene)acetoacetate, 2.9 ml of 28% aqueous ammonia and 50 ml of ethanol was stirred at the reflux temperature for 7 hours, and then the solvent was removed under reduced pressure. The residue was chromatographed on silica gel column and crystallized from methanol to afford 3-[2-[N-(4-chlorobenzyl)-N-methylamino]ethyl] 5-cyclopropylmethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate (11.0 g, 56.3%) as yellow crystals.

reactant | 2-[N-(4-chlorobenzyl)-N-methylamino]-ethyl acetoacetate | 35 mmol, 10.0 g | C(CC(=O)C)(=O)OCCN(C)CC1=CC=C(C=C1)Cl | C14H18ClNO3
reactant | cyclopropylmethyl 2-(3-nitrobenzylidene)acetoacetate | 35 mmol, 10.2 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCC2CC2)C(=O)C)C=CC1 | C15H15NO5
reactant | ammonia | 2.9 ml | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[2-[N-(4-chlorobenzyl)-N-methylamino]ethyl] 5-cyclopropylmethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | 11.0 g, 56.3% | CC=1NC(=C(C(C1C(=O)OCCN(C)CC1=CC=C(C=C1)Cl)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC1CC1)C | C29H32ClN3O6
